US04578522
A mechanically stirred solution of magnesium turnings (Mallinckrodt, for Grignard's reaction, 3.75 g., 0.154 mole) and 2-(2-methoxyphenyl)-4,4-dimethyl-2-oxazoline (30 g, 0.146 mole) in 50 mL dry tetrahydrofuran under nitrogen was prepared. To this was added a crystal of iodine, 1 mL of dibromoethane and 2 mL of neat p-Iodo n-butylbenzene to initiate the Grignard reaction. After warming to initiate the reaction, the remainder of the p-iodo-n-butylbenzene (40 g, 0.154 mole) in 50 mL dry tetrahydrofuran was added dropwise at a rate sufficient to maintain the reaction at gentle reflux. The addition took 1 hr and the reaction mixture was then heated at reflux for 3 hr. The reaction was then cooled to room temperature and 15 mL water was added dropwise to coagulate the salts. The tetrahydrofuran was decanted and the remaining solids were slurried twice with 200 mL ethyl ether and twice with 300 mL dichloromethane. Each organic extract was decanted from the solids in turn and combined and evaporated under reduced pressure to an oil. The oil was redissolved in 300 mL dichloromethane, washed once with 100 ml saturated sodium chloride solution, dried and concentrated under reduced pressure. The resulting residue was distilled under reduced pressure (0.027 Torr, 130°) to yield 2-(4,4-dimethyl-2-oxazolin-2-yl)-4'-n-butylbiphenyl as an oil, yield 25%.

reactant | magnesium | 0.154 mole, 3.75 g | [Mg] | Mg
reactant | 2-(2-methoxyphenyl)-4,4-dimethyl-2-oxazoline | 0.146 mole, 30 g | COC1=C(C=CC=C1)C=1OCC(N1)(C)C | C12H15NO2
reactant | iodine | II | I2
reactant | dibromoethane | 1 mL | BrC(C)Br | C2H4Br2
reactant | p-Iodo n-butylbenzene | 2 mL | ICCCCC1=CC=CC=C1 | C10H13I
reactant | p-iodo-n-butylbenzene | 0.154 mole, 40 g | IC1=CC=C(C=C1)CCCC | C10H13I
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | 2-(4,4-dimethyl-2-oxazolin-2-yl)-4'-n-butylbiphenyl | yield 25% | CC1(N=C(OC1)C1=C(C=CC=C1)C1=CC=C(C=C1)CCCC)C | C21H25NO
